US08293781B2
5-bromo-1-phenyl-1H-indole
A mixture of 5-bromoindole (10 g), potassium carbonate (27 g), copper (I) bromide (0.73 g) and iodobenzene (135 g) was heated to 100° C., then was removed once from the oil bath, sodium hydroxide (1.58 g) and copper (II) acetate (50 mg) were added and the mixture was stirred at 140° C. for 9 hours. From the reaction solution, the insolubles were filtered off, the filtrate was distilled off in vacuo, and the residue obtained was purified by silica gel column chromatography (hexane:ethyl acetate=19:1 to 3:2) to afford the above-identified compound (4.6 g).

reactant | 5-bromoindole | 10 g | BrC=1C=C2C=CNC2=CC1 | C8H6BrN
reactant | potassium carbonate | 27 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodobenzene | 135 g | IC1=CC=CC=C1 | C6H5I
catalyst | copper (I) bromide | 0.73 g | [Cu]Br
product | 5-bromo-1-phenyl-1H-indole | 4.6 g | BrC=1C=C2C=CN(C2=CC1)C1=CC=CC=C1 | C14H10BrN
